US07153958B2
A mixture of 5-(3-chlorophenyl)-α-(4-chlorophenyl)-2-hydrazino-3,5-dihydro-α-(1-methyl-1H-imidazol-5-yl)-4,1-benzothiazepine-7-methanol (described in Example B15a) (0.0082 mol) in HCl 1N (45 ml) was cooled on an ice bath. A solution of NaNO2 (0.009 mol) in water (12 ml) was added. The mixture was stirred at 5° C. for 30 min. Ice was added. The mixture was basified with K2CO3 10% and extracted with DCM. The organic, layer was separated, dried (MgSO4), filtered and the solvent was evaporated till dryness. The residue (5 g) was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH/NH4OH 96/4/0.1; 20–45 μm). The pure fractions were collected and the solvent was evaporated. The residue was crystallized from CH3CN/2-propanone/DIPE. The precipitate was filtered off and dried, yielding 1 g (23.2%) of 6-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-4H,6H-tetrazolo[1,5-a][4,1]benzothiazepine-8-methanol, mp. 217° C.

reactant | 5-(3-chlorophenyl)-α-(4-chlorophenyl)-2-hydrazino-3,5-dihydro-α-(1-methyl-1H-imidazol-5-yl)-4,1-benzothiazepine-7-methanol | 0.0082 mol | ClC=1C=C(C=CC1)C1SCC(=NC2=C1C=C(C=C2)C(O)(C2=CN=CN2C)C2=CC=C(C=C2)Cl)NN | C26H23Cl2N5OS
reactant | NaNO2 | 0.009 mol | N(=O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | HCl | 1N, 45 ml | Cl | ClH
solvent | water | 12 ml | O | H2O
product | 6-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(1-methyl-1H-imidazol-5-yl)-4H,6H-tetrazolo[1,5-a][4,1]benzothiazepine-8-methanol | 1 g, 23.2% | ClC=1C=C(C=CC1)C1SCC=2N(C3=C1C=C(C=C3)C(O)(C3=CN=CN3C)C3=CC=C(C=C3)Cl)N=NN2 | C26H20Cl2N6OS
